US06555533B2
To a solution of (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-(cyclohexanecarbonyl)oxy-2H-azepin-2-one (10 g, 28.2 mmol) in 40 mL of CH2Cl2 is added TFA (25 mL) at room temp., and the reaction solution is stirred at room temp. for 1 hr, then concd via rotary evaporation (bath temp<20° C.). The residue is diluted with CH2Cl2 (100 mL), and washed with NH4OH (10 mL) and then water (2×20 mL) and dried (Na2SO4). The reaction mixture is adsorbed on silica and chromatographed (5% methanol—CH2Cl2) to give 6.0 g (85.0%) of (3S, 6R)-3-aminohexahydro-6-(cyclohexanecarbonyl)oxy-2H-azepin-2-one as a white solid: 1H NMR (CDCl3): δ 6.91 (s, 1H), 4.91 (s, 1H), 4.39 (s, 2H), 3.87 (d, J=9.80 Hz, 1H), 3.48 (t, J=6.02 Hz, 1H), 3.43 (dd, J=15.45 Hz and 4.90 Hz, 1H), 2.30 (tt, J=10.92 Hz and 3.39 Hz, 1H), 2.13 (m, 1H), 1.91 (m, 4H), 1.73 (m, 2H), 1.65 (m, 1H), 1.40 (q, J=11.68 Hz, 4H), 1.24 (m, 2H).

reactant | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-(cyclohexanecarbonyl)oxy-2H-azepin-2-one | 28.2 mmol, 10 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)OC(=O)C1CCCCC1)=O | C18H30N2O5
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (3S, 6R)-3-aminohexahydro-6-(cyclohexanecarbonyl)oxy-2H-azepin-2-one | 6.0 g, 85.0% | N[C@@H]1C(NC[C@@H](CC1)OC(=O)C1CCCCC1)=O | C13H22N2O3
